US04182757
3.0 g of D-xylose, 2.5 g of isopropylamine and 2.5 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 5-(1). 4.0 g of 1-(2-chloroethyl)-3-isopropyl-3-D-xylopyranosylurea are thereby obtained as colorless caramel.

reactant | D-xylose | 3.0 g | O=C[C@H](O)[C@@H](O)[C@H](O)CO | C5H10O5
reactant | isopropylamine | 2.5 g | C(C)(C)N | C3H9N
reactant | 2-chloroethyl isocyanate | 2.5 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-isopropyl-3-D-xylopyranosylurea | 4.0 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@H](O)CO1)C(C)C | C11H21ClN2O5
